US06407235B1
3-(3-tert-Butoxycarbonylamino-propionylamino)-propionic Acid (3S,4S)-4-[2-(4-benzyl-3-hydroxy-piperidin-1-yl)-ethanesulfonyl]-phenyl Ester
The title compound was prepared from (3S,4S)-4-[2-(4-benzyl-3-hydroxy-piperidin-1-yl)-ethanesulfonyl]-phenol and 3-(3-tert-butoxycarbonylamino-propionylamino)-propionic acid in 13% yield as a colorless solid.

reactant | (3S,4S)-4-[2-(4-benzyl-3-hydroxy-piperidin-1-yl)-ethanesulfonyl]-phenol | C(C1=CC=CC=C1)[C@@H]1[C@@H](CN(CC1)CCS(=O)(=O)C1=CC=C(C=C1)O)O | C20H25NO4S
reactant | 3-(3-tert-butoxycarbonylamino-propionylamino)-propionic acid | C(C)(C)(C)OC(=O)NCCC(=O)NCCC(=O)O | C11H20N2O5
product | 3-(3-tert-Butoxycarbonylamino-propionylamino)-propionic Acid (3S,4S)-4-[2-(4-benzyl-3-hydroxy-piperidin-1-yl)-ethanesulfonyl]-phenyl Ester | 13% yield | C(C1=CC=CC=C1)[C@@H]1[C@@H](CN(CC1)CCS(=O)(=O)C1=CC=C(C=C1)OC(CCNC(CCNC(=O)OC(C)(C)C)=O)=O)O | C31H43N3O8S
